US06350749B1
A mixture of 5-(3-thienyl)cyclohexane-1,3-dione (10.5 g) and ammonium acetate (13.1 g) in ethanol (200 ml) was refluxed for 16 hours. The reaction solution was concentrated under reduced pressure, and to the residue was added water (50 ml). The resulting crystals were filtered, washed with water and toluene, and dried to give 1-amino-5-(3-thienyl)cyclohexen-3-one (10 g) as pale yellow crystals.

reactant | 5-(3-thienyl)cyclohexane-1,3-dione | 10.5 g | S1C=C(C=C1)C1CC(CC(C1)=O)=O | C10H10O2S
reactant | ammonium acetate | 13.1 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-amino-5-(3-thienyl)cyclohexen-3-one | 10 g | NC1=CC(CC(C1)C1=CSC=C1)=O | C10H11NOS
